US07482448B2
To a solution of (1-Ethyl-3-nitro-2-trimethylsilanyloxy-propyl)-carbamic acid tert-butyl ester (918 mg, 2.86 mmol), 1,4-Phenylene diisocyanate (1.38 g, 8.5 mmol) and 3-methyl-1-butyne (586 mg, 8.5 mmol) in dry toluene (15 mL) under N2 is added triethylamine (10 drops). The mixture is heated to 50° C. in a sealed vial for 28 h, and then cooled to room temperature Water (1 mL) is added and the mixture is stirred for an additional 2 h, then filtered. The filtrate is concentrated in vacuum and the residue is purified over 35 g silica gel, eluted with ethyl acetate: heptane (1:5) to afford {1-[(5-Isopropyl-isoxazol-3-yl)-trimethylsilanyloxy-methyl]-propyl}-carbamic acid tert-butyl ester (764 mg, 72%) as an oil.

reactant | (1-Ethyl-3-nitro-2-trimethylsilanyloxy-propyl)-carbamic acid tert-butyl ester | 2.86 mmol, 918 mg | C(C)(C)(C)OC(NC(C(C[N+](=O)[O-])O[Si](C)(C)C)CC)=O | C13H28N2O5Si
reactant | 1,4-Phenylene diisocyanate | 8.5 mmol, 1.38 g | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 3-methyl-1-butyne | 8.5 mmol, 586 mg | CC(C#C)C | C5H8
reactant | Water | 1 mL | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
product | {1-[(5-Isopropyl-isoxazol-3-yl)-trimethylsilanyloxy-methyl]-propyl}-carbamic acid tert-butyl ester | 764 mg, 72% | C(C)(C)(C)OC(NC(CC)C(O[Si](C)(C)C)C1=NOC(=C1)C(C)C)=O | C18H34N2O4Si
